US07723333B2
1-(5-Methylpyridin-2-yl)piperidin-4-amine dihydrochloride
A solution of tert-butyl [1-(5-methylpyridin-2-yl)piperidin-4-yl)carbamate (0.23 g, 0.79 mmol) in HCl in Dioxane (4M, 2 ml), THF (1 ml) and MeOH (1 ml) was stirred at room temperature. After 17 h, the reaction mixture was filtered, and the residue washed with EtOAc and dried to give the title compound (181 mg, 86.8%) as a solid. 1H NMR (500 MHz, D2O): 7.80 (d, 1H), 7.60 (s, 1H), 7.15 (d, 1H), 4.10-4.03 (m, 2), 3.53-3.44 (m, 1H), 3.21 (t, 2H), 2.16-2.10 (m, 5H), 1.65 (dq, 2H); 13C NMR (D2O): 150.8, 146.8, 133.9, 123.9, 112.9, 47.7, 44.7, 28.8; Mass Spectrum: M+H 192

reactant | tert-butyl [1-(5-methylpyridin-2-yl)piperidin-4-yl)carbamate | 0.79 mmol, 0.23 g | CC=1C=CC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O | C16H25N3O2
reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | MeOH | 1 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | Dioxane | 4M, 2 ml | O1CCOCC1 | C4H8O2
product | 1-(5-Methylpyridin-2-yl)piperidin-4-amine dihydrochloride | 181 mg, 86.8% | Cl.Cl.CC=1C=CC(=NC1)N1CCC(CC1)N | InChI=1S/C11H17N3.2ClH/c1-9-2-3-11(13-8-9)14-6-4-10(12)5-7-14;;/h2-3,8,10H,4-7,12H2,1H3;2*1H
